US06894052B1
1-[N-(2-nitrophenyl)-N-(2-pyridyl)-2-aminoethyl]-4-(2-methoxyphenyl)-piperazine
A mixture of 0.43 g of 1-[N-(2-nitrophenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine (prepared as described in U.S. Pat. No. 3,472,854), 0.19 g of 2-bromopyridine, 0.17 g of anhydrous potassium carbonate and 0.01 g of powdered copper was heated to 100° C., and maintained at that temperature for 3 h, followed by the addition of another 0.138 g of 2-bromopyridine, and the heating of the mixture to 160° C. for 24 h. After cooling the mixture to room temperature and extraction with ethyl acetate (2×20 mL), the combined organic phases were then washed with water, dried on sodium sulphate, and evaporated to dryness in vacuo. The obtained crude was next purified by flash chromatography (ethyl acetate-petroleum ether 7:3). The recovered fractions, after evaporation to dryness, afforded 0.25 g of the compound of Example 11 (52%).

reactant | 1-[N-(2-nitrophenyl)-2-aminoethyl]-4-(2-methoxyphenyl)piperazine | 0.43 g | [N+](=O)([O-])C1=C(C=CC=C1)NCCN1CCN(CC1)C1=C(C=CC=C1)OC | C19H24N4O3
reactant | 2-bromopyridine | 0.19 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | potassium carbonate | 0.17 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-bromopyridine | 0.138 g | BrC1=NC=CC=C1 | C5H4BrN
catalyst | copper | 0.01 g | [Cu] | Cu
product | 1-[N-(2-nitrophenyl)-N-(2-pyridyl)-2-aminoethyl]-4-(2-methoxyphenyl)-piperazine | 0.25 g, 52% | [N+](=O)([O-])C1=C(C=CC=C1)N(CCN1CCN(CC1)C1=C(C=CC=C1)OC)C1=NC=CC=C1 | C24H27N5O3
